US07067658B2
2-Methoxy-1-methyl-ethyl)-[4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]amine (0.120 g, 0.36 mmol), and Na2SO4 (0.509 g, 2.9 mmol), were treated as in Part D of Example 67a to give a crude yield of 0.066 g (61%) of N2-(2-methoxy-1-methyl-ethyl)-4-(4-methoxy-2-methyl-phenyl)-pyridine-2,3-diamine; MS(AP) m/z 302.2 [(M+H)+, 100]. The crude product was taken on to Part E.

reactant | [4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]amine | 0.36 mmol, 0.120 g | COC1=CC(=C(C=C1)C1=C(C(=NC=C1)N)[N+](=O)[O-])C | C13H13N3O3
reactant | Na2SO4 | 2.9 mmol, 0.509 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
product | N2-(2-methoxy-1-methyl-ethyl)-4-(4-methoxy-2-methyl-phenyl)-pyridine-2,3-diamine | 61% | COCC(C)NC1=NC=CC(=C1N)C1=C(C=C(C=C1)OC)C | C17H23N3O2
